US08076336B2
1-{3-tert-Butyl-4-methoxy-5-[2-(tetrahydropyran-2-yloxy)ethoxy]phenyl}ethanone
Analogously to O2.071, 1-(3-tert-butyl-5-hydroxy-4-methoxyphenyl)ethanone (O3.070; 5.0 g) was reacted with 2-(2-bromoethoxy)tetrahydropyran (5.64 g). However, the crude product was purified using silica gel (40 g cartridge, n-heptane/EA gradient of 0-50% within 60 min). 6.68 g of the title compound were obtained.

reactant | 1-(3-tert-butyl-5-hydroxy-4-methoxyphenyl)ethanone | 5.0 g | C(C)(C)(C)C=1C=C(C=C(C1OC)O)C(C)=O | C13H18O3
reactant | 2-(2-bromoethoxy)tetrahydropyran | 5.64 g | BrCCOC1OCCCC1 | C7H13BrO2
product | 1-{3-tert-Butyl-4-methoxy-5-[2-(tetrahydropyran-2-yloxy)ethoxy]phenyl}ethanone | 6.68 g | C(C)(C)(C)C=1C=C(C=C(C1OC)OCCOC1OCCCC1)C(C)=O | C20H30O5
